US05807886
To a solution of 6-nitro-1-aminoindane hydrochloride (1.00 g, 4.66 mmol) in MeOH (100 ml) was added a catalytic amount of 10% Pd/C. The mixture was hydrogenated at 50 psi for 1 hr, filtered through celite, and concentrated to give 6-amino-1-aminoindane hydrochloride which was homogeneous by TLC and used immediately in the next step.

reactant | 6-nitro-1-aminoindane hydrochloride | 4.66 mmol, 1.00 g | Cl.[N+](=O)([O-])C1=CC=C2CCC(C2=C1)N
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 6-amino-1-aminoindane hydrochloride | Cl.NC1=CC=C2CCC(C2=C1)N | InChI=1S/C9H12N2.ClH/c10-7-3-1-6-2-4-9(11)8(6)5-7;/h1,3,5,9H,2,4,10-11H2;1H
